US07615556B2
N-(2-(4-(4-chlorophenyl)piperazin-1-yl)-2-oxoethyl)benzamide
To a solution of N-benzoyl glycine (1.2 equiv.), 4-chlorophenyl piperazine (1 equiv), HOBt (1.2 equiv) and EDC (1.2 equiv) in DMF was added DIPEA (1.2 equiv). Upon completion of addition the resulting mixture was stirred for 12 h. After this time, the mixture was purified directly via preparative HPLC to provide Example 31. MS found 358.3 (M+H).

reactant | N-benzoyl glycine | 1.2 equiv. | C(C1=CC=CC=C1)(=O)NCC(=O)O | C9H9NO3
reactant | 4-chlorophenyl piperazine | 1 equiv | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | HOBt | 1.2 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.2 equiv
reactant | DIPEA | 1.2 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(2-(4-(4-chlorophenyl)piperazin-1-yl)-2-oxoethyl)benzamide | ClC1=CC=C(C=C1)N1CCN(CC1)C(CNC(C1=CC=CC=C1)=O)=O | C19H20ClN3O2
